US05622976
A mixture of 1-benzyl-4-(4-cyanobutylidene)piperidine (8.8 g) and platinum dioxide (1.2 g) in tetrahydrofuran (150 ml) was hydrogenated at atmospheric pressure for 12 hours. After the catalyst was filtered out, the filtrate was evaporated in vacuo. The residue was chromatographed on silica gel eluting with chloroform/methanol (95:5) and the fractions containing the object compound were combined and evaporated to afford 1-benzyl-4-(4-cyanobutyl)piperidine (5.0 g) as an oil.

reactant | 1-benzyl-4-(4-cyanobutylidene)piperidine | 8.8 g | C(C1=CC=CC=C1)N1CCC(CC1)=CCCCC#N | C17H22N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | platinum dioxide | 1.2 g | [Pt](=O)=O
product | 1-benzyl-4-(4-cyanobutyl)piperidine | 5.0 g | C(C1=CC=CC=C1)N1CCC(CC1)CCCCC#N | C17H24N2
